US07705042B2
c) 1-[4-(3′-Amino-4-methyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-6′-yl)-piperazin-1-yl]-2-morpholin-4-yl-ethanone
A solution of 1-[4-(4-methyl-3′-nitro-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-6′-yl)-piperazin-1-yl]-2-morpholin-4-yl-ethanone (as prepared in the previous step, 0.16 g, 0.37 mmol) in 2:1 EtOH:water (3 mL) was treated with NH4Cl (0.20 g, 3.7 mmol) and iron powder (0.10 g, 1.8 mmol). The reaction was heated to 100° C. for 50 min then cooled to room temperature. The mixture was neutralized with saturated aqueous NaHCO3 and extracted with CH2Cl2. The combined organic layers were dried over MgSO4 and concentrated in vacuo to afford the title compound (0.14 g, 100%), which was immediately used in the next reaction.

reactant | 1-[4-(4-methyl-3′-nitro-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-6′-yl)-piperazin-1-yl]-2-morpholin-4-yl-ethanone | CC1CCN(CC1)C1=NC(=CC=C1[N+](=O)[O-])N1CCN(CC1)C(CN1CCOCC1)=O | C21H32N6O4
reactant | EtOH | CCO | C2H6O
reactant | NH4Cl | 3.7 mmol, 0.20 g | [NH4+].[Cl-]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | iron | 1.8 mmol, 0.10 g | [Fe] | Fe
solvent | water | 3 mL | O | H2O
product | 1-[4-(3′-Amino-4-methyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-6′-yl)-piperazin-1-yl]-2-morpholin-4-yl-ethanone | 0.14 g, 100% | NC=1C(=NC(=CC1)N1CCN(CC1)C(CN1CCOCC1)=O)N1CCC(CC1)C | C21H34N6O2
